US04140532
30 g of thiosalicylic acid and 39 g of triethylamine were dissolved in 125 ml of tetrahydrofuran. The mixed solution was maintained at a temperature of 0 - 5° C., to which 42 g of ethyl chloroformate was added dropwise. The system was allowed to stand for 30 minutes and then, 50 ml of aqueous ammonia (ammonia concentration: 25 - 30%) was added thereto. The resulting solution was allowed to stand over night at room temperatue (about 20 - 30° C.). Then, the solvent used was removed by distillation under reduced pressure, while the residue was filtered off, and recrystallized from ethanol. 21 g of 2H-1,3-benzothiazin-2,4(3H)-dione was obtained. The melting point of the product was 210 - 211° C. (In addition, this product can be also prepared by using as a starting material the ester derivatives of thiosalicylic acid, which are obtained using usual esterification reactions, in a similar manner as above.)

reactant | thiosalicylic acid | 30 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | triethylamine | 39 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 42 g | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 50 ml | N | H3N
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 2H-1,3-benzothiazin-2,4(3H)-dione | 21 g | S1C(NC(C2=C1C=CC=C2)=O)=O | C8H5NO2S
